US06350907B1
A suspension of 4-amino-l-(3-cyanophenyl)-2-methylbenzene (2.5 gm, 12.0 mmol) in conc. hydrochloric acid (13 mL) and water (16 mL) at 0° C., was treated with a solution of sodium nitrite (1.83 gm, 26.5 mmol) in water (10 mL) over 10 mins. The mixture was stirred for 20 mins and then a solution of potassium iodide (8.40 gm, 50.6 mmol) in water (20 mL) was added over 10 mins. The resultant mixture was heated at 80° C. for 2 h then cooled. The residue was extracted with dichloromethane and the combined organic extracts were washed with excess 5% aqueous sodium metabisulphite, to remove iodine. The organic solution was dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution with hexane:ethyl acetate 20:1 to 10:1) to give 1-(3-cyanophenyl)-4-iodo-2-methylbenzene as a white solid (1.105 gm, 29%).

reactant | 4-amino-l-(3-cyanophenyl)-2-methylbenzene | 12.0 mmol, 2.5 gm | NC1=CC(=C(C=C1)C1=CC(=CC=C1)C#N)C | C14H12N2
reactant | sodium nitrite | 26.5 mmol, 1.83 gm | N(=O)[O-].[Na+]
reactant | potassium iodide | 50.6 mmol, 8.40 gm | [I-].[K+]
solvent | hydrochloric acid | 13 mL | Cl | ClH
solvent | water | 16 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 1-(3-cyanophenyl)-4-iodo-2-methylbenzene | 1.105 gm, 29% | C(#N)C=1C=C(C=CC1)C1=C(C=C(C=C1)I)C | C14H10IN
